US08735424B2
A solution of 6-chloro-1,7-naphthyridin-4-yl trifluoromethanesulfonate (1.0 equiv.), (S)-tert-butyl piperidin-3-ylcarbamate (1.0 equiv.) and DIEA (1.5 equiv.) in CH2Cl2 (0.3 M) was stirred at rt for 120 hours. The solution was partitioned between EtOAc and Na2CO3(sat.). Upon separation, the organic layer was washed with NaCl(sat.), dried over MgSO4, concentrated and purified by silica gel chromatography (EtOAc eluant) to yield (S)-tert-butyl 1-(6-chloro-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate (61%). LC/MS=363.2 (M+H), LC=2.47 min.

reactant | 6-chloro-1,7-naphthyridin-4-yl trifluoromethanesulfonate | 1.0 equiv. | FC(S(=O)(=O)OC1=CC=NC2=CN=C(C=C12)Cl)(F)F | C9H4ClF3N2O3S
reactant | (S)-tert-butyl piperidin-3-ylcarbamate | 1.0 equiv. | N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | DIEA | 1.5 equiv. | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 0.3 M | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 1-(6-chloro-1,7-naphthyridin-4-yl)piperidin-3-ylcarbamate | 61% | ClC=1C=C2C(=CC=NC2=CN1)N1C[C@H](CCC1)NC(OC(C)(C)C)=O | C18H23ClN4O2
